* Equivalent circuit model for E:\touchstone_files\145_um.ckt
.SUBCKT 145_um po1 po2
Vsp1 po1 p1 0
Vsr1 p1 pr1 0
Rp1 pr1 0 50
Ru1 u1 0 50
Fr1 u1 0 Vsr1 -1
Fu1 u1 0 Vsp1 -1
Ry1 y1 0 1
Gy1 p1 0 y1 0 -0.02
Vsp2 po2 p2 0
Vsr2 p2 pr2 0
Rp2 pr2 0 50
Ru2 u2 0 50
Fr2 u2 0 Vsr2 -1
Fu2 u2 0 Vsp2 -1
Ry2 y2 0 1
Gy2 p2 0 y2 0 -0.02
Rx1 x1 0 1
Fxc1_2 x1 0 Vx2 0.281918920086978
Cx1 x1 xm1 3.63103913664494e-13
Vx1 xm1 0 0
Gx1_1 x1 0 u1 0 -1.58201493418163
Rx2 x2 0 1
Fxc2_1 x2 0 Vx1 -0.423563813801211
Cx2 x2 xm2 3.63103913664494e-13
Vx2 xm2 0 0
Gx2_1 x2 0 u1 0 0.670084279012442
Rx3 x3 0 1
Fxc3_4 x3 0 Vx4 2.10026915161137
Cx3 x3 xm3 1.1452463210129e-13
Vx3 xm3 0 0
Gx3_1 x3 0 u1 0 -0.413231536859849
Rx4 x4 0 1
Fxc4_3 x4 0 Vx3 -2.07758579809643
Cx4 x4 xm4 1.1452463210129e-13
Vx4 xm4 0 0
Gx4_1 x4 0 u1 0 0.858523972305583
Rx5 x5 0 1
Cx5 x5 0 4.27272513999875e-12
Gx5_1 x5 0 u1 0 -0.0100340298521264
Rx6 x6 0 1
Fxc6_7 x6 0 Vx7 0.282431784052302
Cx6 x6 xm6 3.63103913664494e-13
Vx6 xm6 0 0
Gx6_2 x6 0 u2 0 -1.58361684207518
Rx7 x7 0 1
Fxc7_6 x7 0 Vx6 -0.422794670137573
Cx7 x7 xm7 3.63103913664494e-13
Vx7 xm7 0 0
Gx7_2 x7 0 u2 0 0.66954476036948
Rx8 x8 0 1
Fxc8_9 x8 0 Vx9 2.10078563019953
Cx8 x8 xm8 1.1452463210129e-13
Vx8 xm8 0 0
Gx8_2 x8 0 u2 0 -0.413630094493017
Rx9 x9 0 1
Fxc9_8 x9 0 Vx8 -2.07707502319186
Cx9 x9 xm9 1.1452463210129e-13
Vx9 xm9 0 0
Gx9_2 x9 0 u2 0 0.859140738111936
Rx10 x10 0 1
Cx10 x10 0 4.27272513999875e-12
Gx10_2 x10 0 u2 0 -0.00997106132192115
Gyc1_1 y1 0 x1 0 -0.335006655268886
Gyc1_2 y1 0 x2 0 -0.567389882996268
Gyc1_3 y1 0 x3 0 0.215495436852529
Gyc1_4 y1 0 x4 0 -0.0491069177379653
Gyc1_5 y1 0 x5 0 0.893344242227107
Gyc1_6 y1 0 x6 0 -1
Gyc1_7 y1 0 x7 0 1
Gyc1_8 y1 0 x8 0 1
Gyc1_9 y1 0 x9 0 -1
Gyc1_10 y1 0 x10 0 -1
Gyc2_1 y2 0 x1 0 -1
Gyc2_2 y2 0 x2 0 1
Gyc2_3 y2 0 x3 0 1
Gyc2_4 y2 0 x4 0 -1
Gyc2_5 y2 0 x5 0 -1
Gyc2_6 y2 0 x6 0 -0.328608445308532
Gyc2_7 y2 0 x7 0 -0.562793006508921
Gyc2_8 y2 0 x8 0 0.21593160826549
Gyc2_9 y2 0 x9 0 -0.0414403045435169
Gyc2_10 y2 0 x10 0 0.906244190733261
.ENDS
